US05260262
This example illustrates the preparation of Compound 14, an example of the condensation of a pyridine aldehyde and an organometallic reagent, followed by oxidation of the secondary alcohol. A solution of 2M isopropylmagnesium chloride in ether (40 mL) (Aldrich) was added in a slow stream to a solution of methyl 2-(difluoromethyl)-5-formyl-4-(2-methylpropyl)-6-(trifluoromethyl)-3-pyridinecarboxylate (7 g, 20 mmol) in anhydrous ether (30 mL) at -30° to -20° C. After the mixture was stirred for 3 h at <10° C., it was poured into iced water, acidified with conc. HCl, and extracted with methylene chloride. The organic extract was washed with brine, dried (MgSO4), and conc. to give 3 g of methyl 2-(difluoromethyl)-5-(1-hydroxy-2-methylpropyl)-4-(2-methylpropyl)-6-(trifluoromethyl)-3-pyridinecarboxylate. A solution of this alcohol (3 g) in 20 mL of acetone Was cooled to <10° C., and 8N Jones' reagent (4 mL) was added dropwise. The mixture was stirred at RT for 24 h. Ether and water were added and the aqueous layer separated and extracted with ether. The combined ether layers were washed with water and brine, dried (MgSO4), and conc. in vacuo. The residue was purified by flash chromatography on silica gel with 8% ethyl acetate/cyclohexane to give 1.6 g of the desired compound as a light yellow solid, a yield of 21.1%. m.p. 45°-47° C.

reactant | pyridine aldehyde | N1=C(C=CC=C1)C=O | C6H5NO
reactant | isopropylmagnesium chloride | 2M | C(C)(C)[Mg]Cl
reactant | methyl 2-(difluoromethyl)-5-formyl-4-(2-methylpropyl)-6-(trifluoromethyl)-3-pyridinecarboxylate | 20 mmol, 7 g | FC(C1=NC(=C(C(=C1C(=O)OC)CC(C)C)C=O)C(F)(F)F)F | C14H14F5NO3
reactant | HCl | Cl | ClH
solvent | ether | 40 mL | CCOCC | C4H10O
solvent | ether | 30 mL | CCOCC | C4H10O
solvent | water | O | H2O
product | methyl 2-(difluoromethyl)-5-(1-hydroxy-2-methylpropyl)-4-(2-methylpropyl)-6-(trifluoromethyl)-3-pyridinecarboxylate | 3 g | FC(C1=NC(=C(C(=C1C(=O)OC)CC(C)C)C(C(C)C)O)C(F)(F)F)F | C17H22F5NO3
